datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(C)C(C)C(C)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C(C)C(C)[C:20](C)=[OH+:21] 21=20;20,10=10"
"CCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC>>CCC1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(C)C(O)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C(O)C(C)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[O:10]([Na])C([H])C([H])C(C)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([K])C([H])C([H])C1[H]>>[O:10]([K])C([H])C([H])C([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(CC)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)CC>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])CC 10=20;20,21=21"
"[O-:10]C(CCC)C(C)C([H])C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])C(C)C(CCC)[O:10]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(CC)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
